US07807673B2
Step A: N-(3-Ethynyl-phenyl)-2,2,2-trifluoro-acetamide
To a solution of 3-ethynyl aniline (10 g, 86 mmol) in DCM cooled to 0° C. was added TEA (17 mL, 128 mmol) and TFAA (14.3 mL, 102 mmol). When TLC showed the reaction to be complete, the solution was diluted with DCM and water. The layers were separated. The organic phase was washed with water and brine, dried over MgSO4 and concentrated to give the title compound as an off-white solid which was used crude in the next reaction. 1H NMR (400 MHz, d6-DMSO): δ 11.32 (s, 1H), 7.78 (d, J=1.6 Hz, 1H), 7.67 (d, J=8.0 Hz, 1H), 7.41 (t, J=8.0 Hz, 1H), 7.32 (m, 1H), 4.25 (s, 1H) ppm.

reactant | 3-ethynyl aniline | 86 mmol, 10 g | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | TFAA | 102 mmol, 14.3 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(3-Ethynyl-phenyl)-2,2,2-trifluoro-acetamide | C(#C)C=1C=C(C=CC1)NC(C(F)(F)F)=O | C10H6F3NO
